US07226644B2
Into the THF (150 ml) solution of 2-(trans-4-ethylcyclohexyl)-7,8-difluorochroman (28 g), a 1.6 M butyllithium-hexane solution (65 ml) was added dropwise at −60° C., and stirred for 2 hours at −50° C. Into this, borate trimethyl (15 g) was added dropwise, stirred for 30 minutes, and warmed to 0° C. over 2 hours. Into this, acetic acid (10 ml) was added, and stirred for 20 minutes, to which 30% hydrogen peroxide aqueous solution (20 ml) was gradually added, and stirred for 1 hour. Into this, water (100 ml) was added, which was subjected to extraction using ethyl acetate, followed by concentration. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to obtain 2-(trans-4-ethylcyclohexyl)-7,8-difluoro-6-hydroxychroman (28 g).

reactant | THF | 150 ml | C1CCOC1 | C4H8O
reactant | 2-(trans-4-ethylcyclohexyl)-7,8-difluorochroman | 28 g | C(C)[C@@H]1CC[C@H](CC1)C1OC2=C(C(=CC=C2CC1)F)F | C17H22F2O
reactant | butyllithium hexane | 1.6 M, 65 ml | C(CCC)[Li].CCCCCC
reactant | hydrogen peroxide | 20 ml | OO | H2O2
solvent | water | 100 ml | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-(trans-4-ethylcyclohexyl)-7,8-difluoro-6-hydroxychroman | 28 g | C(C)[C@@H]1CC[C@H](CC1)C1OC2=C(C(=C(C=C2CC1)O)F)F | C17H22F2O2
